US20010047006A1
Preparation of Intermediate 5-Chloroisoxazole-3-carboxylic Acid Ethyl Ester
To a solution of ethyl chlorooximidoacetate (11.0 g, 72.6 mmol, 1 equiv) in 1,1-dichloroethylene (350 mL) was added Et3N (25.3 mL, 181 mmol, 2.5 equiv) in 1,1-dichloroethylene (100 mL) via addition funnel over 30 min. The reaction mixture was stirred at room temperature for 23 h, then was partitioned between water (150 mL) and CH2Cl2 (2×150 mL). The combined organic layers were dried over Na2SO4 and were concentrated. The residue was purified by flash column chromatography (10% EtOAc in hexanes) to give the title intermediate (4.49 g, 35%) as a pale yellow oil: IR (cm−1) 1735, 1436, 1253; 1H NMR (CDCl3) δ 1.45 (t, 3H, J=7.2), 4.49 (q, 2H, J=7.2), 7.29 (s, 1H).

reactant | ethyl chlorooximidoacetate | 72.6 mmol, 11.0 g, 1 equiv | CCOC(=O)/C(=N\O)/Cl | C4H6ClNO3
reactant | Et3N | 181 mmol, 25.3 mL, 2.5 equiv | CCN(CC)CC | C6H15N
reactant | 1,1-dichloroethylene | 350 mL | ClC(=C)Cl | C2H2Cl2
reactant | 1,1-dichloroethylene | 100 mL | ClC(=C)Cl | C2H2Cl2
product | 5-Chloroisoxazole-3-carboxylic Acid Ethyl Ester | 4.49 g, 35% | C(C)OC(=O)C1=NOC(=C1)Cl | C6H6ClNO3
